US08217027B2
To a suspension of palladium hydroxide on carbon (0.583 g, 0.830 mmol) in MeOH (250 mL) was added a solution of (5R,7R)-7-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one (20 g, 41.5 mmol) in MeOH (10 mL). Hydrogen was bubbled through the solution for about 10 minutes and an atmosphere of hydrogen was maintained via balloon. After about 15 hours the reaction mixture was filtered through Celite® and concentrated in vacuo. The crude product was purified by chromatography on silica gel (EtOAc/DCM) to provide (5R,7R)-7-(4-(3-hydroxypropyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one (5.2 g, 18.89 mmol, 45.5% yield) as a colorless solid.

reactant | (5R,7R)-7-(4-(3-(benzyloxy)prop-1-ynyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 41.5 mmol, 20 g | C(C1=CC=CC=C1)OCC#CC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1 | C23H23NO3
solvent | MeOH | 250 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.830 mmol, 0.583 g | [OH-].[OH-].[Pd+2]
product | (5R,7R)-7-(4-(3-hydroxypropyl)phenyl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 18.89 mmol, 5.2 g, 45.5% yield | OCCCC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1 | C16H21NO3
